US07923450B2
b) [8-(4-Chloro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from 6-[1-dimethylamino-methylidene]-2-(4-chloro-phenyl)-cyclohexanone (134 mg, 0.50 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (186 mg, 0.50 mmol) using in analogous manner the procedure described in example 45b). Obtained as an off-white solid (69 mg, 31%). MS ISP (m/e): 446.1 [(M+H)+]. mp 210-212° C.

reactant | 6-[1-dimethylamino-methylidene]-2-(4-chloro-phenyl)-cyclohexanone | 0.50 mmol, 134 mg | CN(C=C1CCCC(C1=O)C1=CC=C(C=C1)Cl)C | C15H18ClNO
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.50 mmol, 186 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [8-(4-Chloro-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=CC=C(C=C1)C1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H24ClN5O
